US05585394
A) 4-Chloro-2-[(4-isopropylphenyl)amino]-1-nitrobenzene
A mixture of 15 g of 4-chloro-1,2-dinitrobenzene, 10 g of 4-isopropylaniline and 25 ml of Decaline® is refluxed for 15 hours. The reaction mixture is concentrated under 0.01 mm Hg, the residue is taken up with water, extracted with ether, washed with a 1N solution of HCl and with water and dried over Na2SO4 and the solvent is evaporated off under vacuum. The residue is chromatographed on silica using iso ether as the eluent to give 13 g of the expected product, which is used as such in the next step.

reactant | 4-chloro-1,2-dinitrobenzene | 15 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])[N+](=O)[O-] | C6H3ClN2O4
reactant | 4-isopropylaniline | 10 g | C(C)(C)C1=CC=C(N)C=C1 | C9H13N
reactant | Decaline | 25 ml | C1CCCC2CCCCC12 | C10H18
product | 4-Chloro-2-[(4-isopropylphenyl)amino]-1-nitrobenzene | 13 g | ClC1=CC(=C(C=C1)[N+](=O)[O-])NC1=CC=C(C=C1)C(C)C | C15H15ClN2O2
